US05334740
The above 4,5-(dimethylmethylenedioxy)-3-methoxymethoxy-6-heptenal (91.9 mg) was dissolved in 1 ml of pyridine, and 45 mg of hydroxylamine hydrochloride was added at room temperature, and stirring was conducted at room temperature for 8 hours. The reaction mixture was diluted with diethyl ether. The diluted reaction mixture was washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography to afford 89.5 mg of 4,5-(dimethylmethylenedioxy)-3-methoxymethoxy-6-heptenal oxime having the following properties (yield 52%).

reactant | 4,5-(dimethylmethylenedioxy)-3-methoxymethoxy-6-heptenal | 91.9 mg | CC1(OC(C(CC=O)OCOC)C(C=C)O1)C | C12H20O5
reactant | hydroxylamine hydrochloride | 45 mg | Cl.NO
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4,5-(dimethylmethylenedioxy)-3-methoxymethoxy-6-heptenal oxime | 89.5 mg, yield 52% | CC1(OC(C(CC=NO)OCOC)C(C=C)O1)C | C12H21NO5
